US07320995B2
1-isopropylsulfonyl-2-amino-6-(1-(benzyl)-5-(3,5-difluorophenyl)-2-(2,4-difluorophenyl)-imidazol-4-yl)-benzimidazole
Reflux a mixture of 1-benzyl-4-bromo-5-(3,5-difluoro-phenyl)-2-(2,4-difluoro-phenyl)-imidazole (0.061 g, 0.13 mmol), 1-isopropylsulfonyl-2-amino-benzimidazole-6-boronic acid (0.113 g, 0.40 mmol) (described in preparation 56), trans-dichlorobis(triphenylphosphine) palladium (II) (0.009 g, 0.013 mmol), 2 M sodium carbonate (0.20 mL) and 1,2-dimethoxyethane (5 mL) for 18 hours. Cool to ambient temperature, dilute with ethyl acetate and wash with saturated sodium bicarbonate, saturated sodium chloride, dry with magnesium sulfate, filter and remove solvents under reduced pressure. Purify on silica gel with dichloromethane/methanol mixtures to provide the title compound (0.084 g). MS(ES+): m/z=620.1 (M+H)+

reactant | 1-benzyl-4-bromo-5-(3,5-difluoro-phenyl)-2-(2,4-difluoro-phenyl)-imidazole | 0.13 mmol, 0.061 g | C(C1=CC=CC=C1)N1C(=NC(=C1C1=CC(=CC(=C1)F)F)Br)C1=C(C=C(C=C1)F)F | C22H13BrF4N2
reactant | 1-isopropylsulfonyl-2-amino-benzimidazole-6-boronic acid | 0.40 mmol, 0.113 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)B(O)O)N | C10H14BN3O4S
reactant | sodium carbonate | 2 M, 0.20 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-isopropylsulfonyl-2-amino-6-(1-(benzyl)-5-(3,5-difluorophenyl)-2-(2,4-difluorophenyl)-imidazol-4-yl)-benzimidazole | 0.084 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(N(C2C2=CC(=CC(=C2)F)F)CC2=CC=CC=C2)C2=C(C=C(C=C2)F)F)N | C32H25F4N5O2S
